US06235771B1
In DMF (96 ml) was dissolved 3-bromophenol (12 g). To the mixture was added potassium carbonate (12.5 g) and then 2-bromoethylethylether (6.7 ml), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=12/1) to give 1-bromo-3-ethoxybenzene (11.6 g).

reactant | 3-bromophenol | 12 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylethylether | 6.7 ml | BrCCOCC | C4H9BrO
reactant | water | O | H2O
solvent | DMF | 96 ml | CN(C)C=O | C3H7NO
product | 1-bromo-3-ethoxybenzene | 11.6 g | BrC1=CC(=CC=C1)OCC | C8H9BrO
